US04497805
Methyl 11α-(3-methylbutylamino)-5α-androst-2-ene-17β-carboxylate hydrosulphate
Methyl 11α-amino-androst-2-ene-17β-carboxylate (1.46 g) was dissolved in methanol (20 ml) and isovaleraldehyde (1.29 ml) was added in three portions. After stirring for 1 h at room temperature sodium borohydride (0.45 g) was added in several portions to avoid excessive gas evolution and the reaction mixture was stirred for 1/2 h. The methanol was removed at reduced pressure and the residual gum was partitioned between ethyl acetate and water. The layers were separated and the organic phase was washed with M--H2SO4, water and saturated brine, dried and concentrated to about 15 ml. Petrol was added to incipient cloudiness and the solution was allowed to crystallise to give the title compound (1.15 g), m.p. 150°-152° C.

reactant | Methyl 11α-amino-androst-2-ene-17β-carboxylate | 1.46 g | N[C@H]1[C@@H]2[C@]3(CC=CCC3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)C | C21H33NO2
reactant | isovaleraldehyde | 1.29 ml | C(CC(C)C)=O | C5H10O
reactant | sodium borohydride | 0.45 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | Methyl 11α-(3-methylbutylamino)-5α-androst-2-ene-17β-carboxylate | 1.15 g | CC(CCN[C@H]1[C@@H]2[C@]3(CC=CC[C@@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)C)C | C26H43NO2
